US04044049
B. 2-Fluoro-5-nitroanisole
An intimate mixture of 2.0 grams of 2-fluoro-5-nitrophenol, 2.0 grams of potassium carbonate, and 1.0 ml. of methyl sulphate, is heated on the steam bath for 5 minutes and then steam distilled, the volume of liquid in the flask being kept as small as possible. The 2-fluoro-5nitroanisole passes over, and a further quantity is obtained by adding more potassium carbonate (1 gram) and methyl sulphate (0.5 ml.) to the residual liquor, which is then warmed and steam distilled. The 2-fluoro-5-nitroanisole is then recrystallized from hexane.

reactant | 2-fluoro-5-nitrophenol | 2.0 grams | FC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H4FNO3
reactant | potassium carbonate | 2.0 grams | C([O-])([O-])=O.[K+].[K+]
reactant | methyl sulphate | S(=O)(=O)(OC)[O-]
reactant | potassium carbonate | 1 gram | C([O-])([O-])=O.[K+].[K+]
reactant | methyl sulphate | 0.5 ml | S(=O)(=O)(OC)[O-]
product | 2-Fluoro-5-nitroanisole | FC1=C(C=C(C=C1)[N+](=O)[O-])OC | C7H6FNO3
